US07071182B2
{[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-4-ylcarbamoyl]-methyl}-carbamic acid tert-butyl ester
1-(2-Pyrrolidin-1-yl-ethyl)-1H-indazol-4-ylamine (1.00 g, 4.34 mmol), tert-butoxycarbonylamino-acetic acid (0.836 g, 4.77 mmol), ethyldimethylpropylcarbodiimide hydrochloride (1.00 g, 5.24 mmol), N-hydroxybenzotriazole (0.707 g, 5.24 mmol) and N-methyl morpholine (1.10 g, 10.9 mmol) were dissolved in 30 mL of DMF, and stirred at room temperature for 6 hours. The mixture was concentrated under reduced pressure and the residue purified by flash chromatography to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.41 (s, 9H), 1.62 (m, 4H), 2.44 (m, 4H), 2.86 (t, 2H, J=6.78), 3.86 (d, 2H, J=6.11), 4.47 (t, 2H, J=6.78), 7.08–7.65 (m, 4H), 8.24 (s, 1H), 9.97 (s, 1H); MS (DCI/NH3) m/z 388 [M+H]+.

reactant | 1-(2-Pyrrolidin-1-yl-ethyl)-1H-indazol-4-ylamine | 4.34 mmol, 1.00 g | N1(CCCC1)CCN1N=CC2=C(C=CC=C12)N | C13H18N4
reactant | tert-butoxycarbonylamino-acetic acid | 4.77 mmol, 0.836 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | ethyldimethylpropylcarbodiimide hydrochloride | 5.24 mmol, 1.00 g | Cl.C(C)N=C=NC(CC)(C)C
reactant | N-hydroxybenzotriazole | 5.24 mmol, 0.707 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methyl morpholine | 10.9 mmol, 1.10 g | CN1CCOCC1 | C5H11NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | {[1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-4-ylcarbamoyl]-methyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(NC1=C2C=NN(C2=CC=C1)CCN1CCCC1)=O)=O | C20H29N5O3
